US07563791B2
Step 3: Preparation of ethyl (2E)-3-[4-amino-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]acrylate
To a suspension of lithium hydride (68 mg, 4.0 mmol) in THF (5 mL) under N2 atmosphere was added triethyl phosphonoacetate (498 mg, 2.22 mmol). The mixture was stirred at rt for 30 min and to the reaction mixture was added a slurry of 4-amino-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde (433 mg, 1.53 mmol) in THF (15 ml). The mixture was heated at reflux for 2 h. After it was cooled to rt, aqueous NaHCO3 was slowly added followed by EtOAc. The organic layer was collected and the aqueous layer was back extracted with EtOAc (2×). The combined organic layers were dried (Na2SO4) and evaporated to give a crude yellow solid that was purified by column chromatography (10:90 to 90:10 v/v EtOAc-hexanes) to afford the title compound (480 mg, 89%). 1H-NMR (CD3OD) δ 8.42 (d, J=8.0 Hz, 2H), 8.17 (s, 1H), 7.88 (s, 1H), 7.68 (d, J=8.0 Hz, 2H), 7.43 (d, J=16 Hz, 1H), 6.36 (d, J=16 Hz, 1H), 4.16 (q, J=7.1 Hz, 2H), 1.23 (t, J=7.1 Hz, 3H); MS [M+H]+=354; LCMS RT=3.12 min.

reactant | lithium hydride | 4.0 mmol, 68 mg | [H-].[Li+]
reactant | 4-amino-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carbaldehyde | 1.53 mmol, 433 mg | NC1=NC=NN2C1=C(C(=C2)C=O)C2=CC=C(C=C2)[N+](=O)[O-] | C13H9N5O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | ethyl (2E)-3-[4-amino-5-(4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazin-6-yl]acrylate | 480 mg, 89% | NC1=NC=NN2C1=C(C(=C2)/C=C/C(=O)OCC)C2=CC=C(C=C2)[N+](=O)[O-] | C17H15N5O4
